US06593330B2
2-[(3-Phenoxybenzyl)oxy]-6-(1-piperazinyl)pyrazine
The title compound was prepared according to the procedure of example 50, step 2, starting from 2-chloro-6-[(3-phenoxybenzyl)oxy]pyrazine (1.99 g, 6.36 mmol; obtained according to the procedure of example 50, step 1, starting from 3-phenoxybenzyl alcohol), piperazine (1.94 g, 22.5 mmol) and K2CO3 (0.88 g, 6.4 mmol). The yield of the title compound was 1.58 g (69%) which was obtained as an oil. Purity 100% (HPLC). MS m/z 363 (M+H)+. HRMS m/z calcd for C21H22N4O2 (M)+ 362.1743, found 362.1739.

reactant | 2-chloro-6-[(3-phenoxybenzyl)oxy]pyrazine | ClC1=NC(=CN=C1)OCC1=CC(=CC=C1)OC1=CC=CC=C1 | C17H13ClN2O2
reactant | 3-phenoxybenzyl alcohol | O(C1=CC=CC=C1)C=1C=C(CO)C=CC1 | C13H12O2
reactant | piperazine | 22.5 mmol, 1.94 g | N1CCNCC1 | C4H10N2
reactant | K2CO3 | 6.4 mmol, 0.88 g | C(=O)([O-])[O-].[K+].[K+]
product | 2-[(3-Phenoxybenzyl)oxy]-6-(1-piperazinyl)pyrazine | O(C1=CC=CC=C1)C=1C=C(COC2=NC(=CN=C2)N2CCNCC2)C=CC1 | C21H22N4O2
